US20010046993A1
B. 3-[3-(4-Benzyl-1-piperazinyl)propyl]-1,3-oxazolidin-2-one
Sodium hydride(60% in oil, 0.5 g/12.5 mmol) was added to a solution of 2-chloroethyl 3-(4-benzyl-1-piperazinyl)propylcarbamate in dimethylformamide(20 ml) and stirred for 1 day at 80° C. The solvent was removed in vacuo and the residue was diluted with dichloromethane (50 ml) and water (50 ml). The aqueous layer was extracted with dichloromethane (50 ml). The combined extracts were washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel/dichloromethane) to give a colorless oil (1.40 g/54%).

reactant | Sodium hydride | 12.5 mmol, 0.5 g | [H-].[Na+]
reactant | 2-chloroethyl 3-(4-benzyl-1-piperazinyl)propylcarbamate | C(C1=CC=CC=C1)N1CCN(CC1)CCCNC(OCCCl)=O | C17H26ClN3O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[3-(4-Benzyl-1-piperazinyl)propyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)N1CCN(CC1)CCCN1C(OCC1)=O | C17H25N3O2
